US04459151
166 g (0.9 mol) of cyanuric chloride were dissolved in 1 liter of warm acetone, the solution was filtered off from the small quantity of insoluble substance, and a solution of 90 g (0.9 mol) of 2,2,2-trifluoroethylamine in 101 g (1.0 mol) of triethylamine was added dropwise at 0° to 5° C., while stirring and cooling with ice. The mixture was stirred for some time, approx. 1 liter of water was added, and the crystals which had formed were filtered off under suction. After the product had been dried, 100 g (=45% of theory) of 2,4-dichloro-6-(2,2,2-trifluoroethylamino)-s-triazine of melting point 115° to 118° C. were obtained.

reactant | cyanuric chloride | 0.9 mol, 166 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 2,2,2-trifluoroethylamine | 0.9 mol, 90 g | FC(CN)(F)F | C2H4F3N
reactant | triethylamine | 1.0 mol, 101 g | C(C)N(CC)CC | C6H15N
reactant | water | approx. 1 liter | O | H2O
solvent | acetone | 1 liter | CC(=O)C | C3H6O
product | 2,4-dichloro-6-(2,2,2-trifluoroethylamino)-s-triazine | 100 g, 45% | ClC1=NC(=NC(=N1)Cl)NCC(F)(F)F | C5H3Cl2F3N4
